US07851473B2
5-Chloro-3-(phenoxymethyl)-1,2,4-thiadiazole
To a solution of 2-phenoxyethanimidamide hydrochloride (2.00 g, 10.7 mmol) and perchloromethyl mercaptan (1.15 ml, 10.7 mmol) in dichloromethane (40 ml) was added dropwise a solution of sodium hydroxide (2.15 g, 53.7 mmol) in water (6 ml) under ice-cooling. Then, the reaction mixture was stirred under ice-cooling for 1 hour and at room temperature for 1 hour. The organic layer was separated, washed with water, and then dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified by a silica gel column chromatography (hexane:ethyl acetate=9:1) to give 1.66 g (68.3%) of the desired product as an oil.

reactant | 2-phenoxyethanimidamide hydrochloride | 10.7 mmol, 2.00 g | Cl.O(C1=CC=CC=C1)CC(N)=N
reactant | perchloromethyl mercaptan | 10.7 mmol, 1.15 ml | ClC(Cl)(Cl)S | CHCl3S
reactant | sodium hydroxide | 53.7 mmol, 2.15 g | [OH-].[Na+]
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | water | 6 ml | O | H2O
product | 5-Chloro-3-(phenoxymethyl)-1,2,4-thiadiazole | 1.66 g, 68.3% | ClC1=NC(=NS1)COC1=CC=CC=C1 | C9H7ClN2OS
